US04410730
To a solution of N-methylanilinoborane dichloride (100 mg) in methylene chloride (5 ml), a solution of benzaldehyde (56 mg) and tri-n-butylamine (99 mg) in methylene chloride (2 ml) is added with ice cooling, and the resultant mixture is stirred at room temperature for 1 hour. The reaction mixture is mixed with ice pieces and shaken with methylene chloride. The methylene chloride layer is washed with aqueous sodium carbonate and a saturated brine in that order, and evaporated under reduced pressure to remove the solvent. The residue is chromatographed on a column of silica gel, and the product is recrystallized from chloroform-petroleum ether to give 2-methylaminobenzhydrol (85 mg) as crystals melting at 124° to 126° C. The yield is 75.0%.

reactant | N-methylanilinoborane dichloride | 100 mg | [Cl-].[Cl-].CN(C1=CC=CC=C1)B
reactant | benzaldehyde | 56 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | tri-n-butylamine | 99 mg | C(CCC)N(CCCC)CCCC | C12H27N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-methylaminobenzhydrol | 85 mg, yield is 75.0% | CNC1=C(C(C2=CC=CC=C2)O)C=CC=C1 | C14H15NO
